US07301022B2
N-(2-(6-(2-Acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)-1-isobutylpiperidine-2-carboxamide
N-(2-(6-(2-Acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)piperidine-2-carboxamide, Example 49(a), (0.50 g, 0.90 mmol) was reacted with isobutyraldehyde (0.16 mL, 1.8 mmol, Aldrich) under the conditions of Example 3(d) to give the title compound as a white solid. MS (ESI, pos. ion) m/z: 613 (M+1). Mp: 153.4-154.9° C.

reactant | N-(2-(6-(2-Acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)piperidine-2-carboxamide | C(C)(=O)NC=1SC2=C(N1)C(=CC=C2)OC2=CC(=NC=N2)C2=C(C=C(C=C2)C(F)(F)F)NC(=O)C2NCCCC2 | C26H23F3N6O3S
reactant | isobutyraldehyde | 1.8 mmol, 0.16 mL | C(C(C)C)=O | C4H8O
product | N-(2-(6-(2-Acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)-1-isobutylpiperidine-2-carboxamide | C(C)(=O)NC=1SC2=C(N1)C(=CC=C2)OC2=CC(=NC=N2)C2=C(C=C(C=C2)C(F)(F)F)NC(=O)C2N(CCCC2)CC(C)C | C30H31F3N6O3S
